US05981533
1 g of 1-benzyl-4-chloro-3-phenylamino-pyrazolo[3,4-d]pyrimidine is suspended in 8 ml of ethanol; 27 ml of aniline are added thereto and, under nitrogen, the reaction mixture is heated under reflux for 2.5 hours until, according to thin-layer chromatography, all the starting material has disappeared. The reaction mixture is concentrated to dryness by evaporation, the residue is suspended in water and the pH is adjusted to pH 8.5-9 with 0.1N NaOH. Extraction is then carried out with ethyl acetate and the ethyl acetate phase is then dried and concentrated by evaporation. The crude product is chromatographed on silica gel, mixtures of toluene/ethyl acetate being used as eluant. Product-containing column fractions are stirred with cyclohexane/hexane, yielding colorless crystals of 1-benzyl-3,4-diphenylamino-pyrazolo[3,4-d]pyrimidine; FAB-MS: (M+H)+ =393 (C24H20N6).

reactant | 1-benzyl-4-chloro-3-phenylamino-pyrazolo[3,4-d]pyrimidine | 1 g | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2Cl)NC2=CC=CC=C2 | C18H14ClN5
reactant | aniline | 27 ml | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 1-benzyl-3,4-diphenylamino-pyrazolo[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2NC2=CC=CC=C2)NC2=CC=CC=C2 | C24H20N6
